US07754737B2
Solid (S)-tert-butyl 1-cyclohexyl-3-(dimethylamino)propan-2-ylcarbamate (263 mg, 0.97 mmol) was dissolved in 4 M HCl in dioxane (10 mL, 40 mmol) and H2O (1 mL). After 2 h, the solvent was removed (50° C., 150 mm) and the residual solvent was azeotroped with toluene (2×10 mL) to afford (S)-3-Cyclohexyl-N1,N1-dimethylpropane-1,2-diamine dihydrochloride (245.3 mg, 100%) as a white solid. MS ESI+ve m/z 185 (M(−BOC)+1)+.

reactant | (S)-tert-butyl 1-cyclohexyl-3-(dimethylamino)propan-2-ylcarbamate | 0.97 mmol, 263 mg | C1(CCCCC1)C[C@@H](CN(C)C)NC(OC(C)(C)C)=O | C16H32N2O2
reactant | dioxane | 40 mmol, 10 mL | O1CCOCC1 | C4H8O2
reactant | HCl | 4 M | Cl | ClH
solvent | H2O | 1 mL | O | H2O
product | (S)-3-Cyclohexyl-N1,N1-dimethylpropane-1,2-diamine dihydrochloride | 245.3 mg, 100% | Cl.Cl.C1(CCCCC1)C[C@@H](CN(C)C)N | InChI=1S/C11H24N2.2ClH/c1-13(2)9-11(12)8-10-6-4-3-5-7-10;;/h10-11H,3-9,12H2,1-2H3;2*1H/t11-;;/m0../s1
